US07598267B2
Preparation of 4-[cyano(diphenyl)methyl]-1-(4-penten-1-yl)-1-azoniabicyclo[2.2.2]octane bromide
Following the general procedure outlined in Example 2, 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)acetonitrile (0.0495 g, 0.164 mmol) and 5-bromo-1-pentene (0.035 mL, 0.295 mmol) in 2CH3CN/3CHCl3 (4.0 mL) were reacted to give the desired product (0.0433 g, 59.3%). EI-MS m/z 371(M+) Rt (2.03 min).

reactant | 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)acetonitrile | 0.164 mmol, 0.0495 g | N12CCC(CC1)(CC2)C(C#N)(C2=CC=CC=C2)C2=CC=CC=C2 | C21H22N2
reactant | 5-bromo-1-pentene | 0.295 mmol, 0.035 mL | BrCCCC=C | C5H9Br
product | 4-[cyano(diphenyl)methyl]-1-(4-penten-1-yl)-1-azoniabicyclo[2.2.2]octane bromide | 0.0433 g, 59.3% | [Br-].C(#N)C(C12CC[N+](CC1)(CC2)CCCC=C)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C26H31N2.BrH/c1-2-3-10-18-28-19-15-25(16-20-28,17-21-28)26(22-27,23-11-6-4-7-12-23)24-13-8-5-9-14-24;/h2,4-9,11-14H,1,3,10,15-21H2;1H/q+1;/p-1
